US07572792B2
tert-butyl 3-{[(2-chloro-3,6-difluorobenzoyl)amino]methyl}-3-(1-methylpiperidin-2-yl)azetidine-1-carboxylate (0.40 g, 0.9 mmol) was dissolved in dichloromethane (3 ml) and trifluoroacetic acid (2 eq) was added. The reaction was stirred at room temperature overnight. The mixture was evaporated to dryness and the residue treated with saturated aqueous sodium carbonate. The product was extracted into dichloromethane. The organic phase was washed with brine, dried over anhydrous magnesium sulfate and evaporated to give 2-chloro-3,6-difluoro-N-{[3-(1-methylpiperidin-2-yl)azetidin-3-yl]methyl}benzamide (0.20 g, 64%) which was used without further purification. Propane-1-sulfonyl chloride (0.04 ml, 0.34 mmol) was added to 2-chloro-3,6-difluoro-N-{[3-(1-methylpiperidin-2-yl)azetidin-3-yl]methyl}benzamide (0.10 g, 0.28 mmol) and triethylamine (0.08 g, 0.56 mmol) in dichloromethane (2 ml) at 0° C. The reaction was then stirred at room temperature for 30 mins before quenching with N,N-dimethylethylenediamine (0.5 eq). The resulting mixture was partitioned between dichloromethane and water. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated to dryness. Purification by flash column chromatography on a silica cartridge eluting with dichloromethane (containing 1% ammonia) on a gradient of methanol (0-5%) led to 2-chloro-3,6-difluoro-N-{[3-(1-methylpiperidin-2-yl)-1-(propylsulfonyl)azetidin-3-yl]methyl}benzamide as an off-white solid. m/z (M++H) 464, 1H NMR (500 MHz, DMSO): δ 9.34 (s, 1 H); 7.58 (t, J=6.7 Hz, 1 H); 7.43 (s, 1 H); 4.07 (t, J=12.7 Hz, 1H); 3.91 (d, J=7.8 Hz, 1 H); 3.79 (d, J=7.8 Hz, 2 H); 3.65 (d, J=8.1 Hz, 1 H); 3.53 (d, J=10.8 Hz, 1 H); 3.17 (s, 2 H); 3.05 (t, J=7.4 Hz, 2 H); 2.80 (s, 1 H); 2.56 (s, 2 H); 1.75 (s, 1 H); 1.67 (dd, J=7.8, 15.0 Hz, 5 H); 1.39 (s, 2 H); 0.96 (t, J=7.3 Hz, 3 H).

reactant | tert-butyl 3-{[(2-chloro-3,6-difluorobenzoyl)amino]methyl}-3-(1-methylpiperidin-2-yl)azetidine-1-carboxylate | 0.9 mmol, 0.40 g | ClC1=C(C(=O)NCC2(CN(C2)C(=O)OC(C)(C)C)C2N(CCCC2)C)C(=CC=C1F)F | C22H30ClF2N3O3
reactant | trifluoroacetic acid | 2 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-chloro-3,6-difluoro-N-{[3-(1-methylpiperidin-2-yl)azetidin-3-yl]methyl}benzamide | 0.20 g, 64% | ClC1=C(C(=O)NCC2(CNC2)C2N(CCCC2)C)C(=CC=C1F)F | C17H22ClF2N3O
